US08426447B2
A sealable tube was charged with (S)-7-bromo-3-(neopentyloxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (75 mg, 0.179 mmol), copper iodide (3.38 mg, 0.018 mmol), tetrakis(triphenylphosphine)palladium (20.53 mg, 0.018 mmol). To this mixture was added DMF (355 μL, 0.178 mmol), diisopropylamine (498 μL, 3.55 mmol) and trimethyl((3-methyloxetan-3-yl)ethynyl)silane (90 mg, 0.533 mmol). The tube was flushed with argon, sealed and heated to 90° C. for 12 hours. The reaction was diluted with water (100 mL) and poured into a separatory funnel containing ethyl acetate (50 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with water and then brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide a brown oil that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (12 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide (S)-7-((3-methyloxetan-3-yl)ethynyl)-3-(neopentyloxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a yellow solid.

reactant | (S)-7-bromo-3-(neopentyloxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 0.179 mmol, 75 mg | BrC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)OCC(C)(C)C | C19H20BrN3O3
reactant | DMF | 0.178 mmol, 355 μL | CN(C)C=O | C3H7NO
reactant | diisopropylamine | 3.55 mmol, 498 μL | C(C)(C)NC(C)C | C6H15N
reactant | trimethyl((3-methyloxetan-3-yl)ethynyl)silane | 0.533 mmol, 90 mg | C[Si](C#CC1(COC1)C)(C)C | C9H16OSi
catalyst | copper iodide | 0.018 mmol, 3.38 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 0.018 mmol, 20.53 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-7-((3-methyloxetan-3-yl)ethynyl)-3-(neopentyloxy)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | CC1(COC1)C#CC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)OCC(C)(C)C | C25H27N3O4
